US07875645B2
c) 2-Chloro-6-ethyl-benzaldehyde
To a solution of 19.7 g (88.1 mmol) butyl-[1-(2-chloro-6-ethyl-phenyl)-meth-(E)-ylidene]-amine in 70 ml water at 0° C. was added dropwise 18.9 ml concentrated sulphuric acid. The mixture was then heated at reflux for 90 min before being cooled to room temperature and diluted with ethyl acetate. The mixture was then washed sequentially with water, saturated aqueous sodium bicarbonate solution, and saturated brine. The organic phase was dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography (silica gel, ethyl acetate/heptane 1:30) to afford 11.4 g (77%) of the title compound as a yellow oil. 1H-NMR (CDCl3): 1.22 (3H, t, CH3), 2.97 (2H, q, CH2), 7.20 (1H, d, ArH), 7.30 (1H, d, ArH), 7.39 (1H, dd, ArH), 10.65 (1H, s, CHO).

reactant | butyl-[1-(2-chloro-6-ethyl-phenyl)-meth-(E)-ylidene]-amine | 88.1 mmol, 19.7 g | C(CCC)/N=C/C1=C(C=CC=C1CC)Cl | C13H18ClN
reactant | sulphuric acid | 18.9 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 70 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-6-ethyl-benzaldehyde | 11.4 g, 77% | ClC1=C(C=O)C(=CC=C1)CC | C9H9ClO
